US07049321B2
Synthesis of 8-Methyl-4-pyrrolidin-1-ylmethyl-1-thia-4,8-diaza-spiro[4.5]decan-3-one, AF287
A solution of 8-Methyl-1-thia-4,8-diaza-spiro[4.5]decan-3-one (AF277 5.13 g, 0.0275 mol), formaldehyde (37% solution, 2.75 ml), and pyrrolidine (2.3 ml, 0.0275 mole) in ethanol (2.3 ml) was refluxed for 4 h, then left at room temperature over night. Toluene (10 ml) was added and the solvent was evaporated. Boiling pentane (100 ml) was added to the residue and the solution was decanted. The trituration with hot pentane was repeated four times, the pentane layers were combined, cooled to 0° C. and the precipitate was collected and identified as AF287 (4.6 gr, 63% yield). 1H-NMR (CDCl3) δ 1.69–1.77 (m, 5H), 2.20–2.29 (s and m, 5H, CH3, and CH2), 2.43–2.58 (m, 6H), 2.82–2.86 (m, 2H), 3.50 (s, 2H), 3.50 (s, 2H, SCH2), 4.14 (s, 2H, NCH2N) ppm. MS (EI) m/e 269(M+); 198; 84; 70.

reactant | 8-Methyl-1-thia-4,8-diaza-spiro[4.5]decan-3-one | CN1CCC2(NC(CS2)=O)CC1 | C8H14N2OS
reactant | formaldehyde | 2.75 ml | C=O | CH2O
reactant | pyrrolidine | 0.0275 mole, 2.3 ml | N1CCCC1 | C4H9N
reactant | Toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 2.3 ml | C(C)O | C2H6O
product | 8-Methyl-4-pyrrolidin-1-ylmethyl-1-thia-4,8-diaza-spiro[4.5]decan-3-one | 63% yield | CN1CCC2(N(C(CS2)=O)CN2CCCC2)CC1 | C13H23N3OS
